US05955440
The hydrochloride salt of 4-chloroaniline (6.2 g, 38 mmol) and 2-oxazolidone (3.29 g, 38 mmol) was suspended in a minimal amount of di(ethyleneglycol)methyl ether and the resulting suspension heated at 160° C. After 4 h CO2 evolution ceased and the reaction mixture was cooled to ambient temperature. The resulting solid was crystallized from EtOH/ether to yield 4.6 g (58%) of 4-chloroanilinoethylamine as its HCl salt. MS (CI) (M+H)+ at m/z 171. The free amine was prepared by partitioning the HCl salt between CH2Cl2 and NaHCO3 (sat.), drying the organic layer (Na2SO4), filtering and concentrating.

reactant | 4-chloroaniline | 38 mmol, 6.2 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 2-oxazolidone | 38 mmol, 3.29 g | O1[C-]=NC(C1)=O
reactant | CO2 | C(=O)=O | CO2
product | 4-chloroanilinoethylamine | 4.6 g, 58% | ClC1=CC=C(NCCN)C=C1 | C8H11ClN2
